US07045551B2
Step A: 2-(3-Bromo-phenyl)-oxirane
1-Bromo-3-vinyl-benzene (5 g, 27.3 mmol) and 3-cyanopyridine (551 mg, 2.7 mmol) were added in CH2Cl2 (25 mL), Methyltrioxorhenium (VII) (34 mg, 0.137 mmol) and hydrogen peroxide (30%) (6.2 mL, 54.6 mmol) were added and the reaction mixture was stirred at room temperaute for 18 h. Sodium sulfite 1M (10 mL) and saturated sodium bicarbonate were added, the aqueous layer was extracted with CH2Cl2, and the combined organic layers were dried over anhydrous magnesium sulfate, filtered. The filtrate was concentrated in vacuo to provide the title compound as clear oil ((5.05 g, 93%).

reactant | 1-Bromo-3-vinyl-benzene | 27.3 mmol, 5 g | BrC1=CC(=CC=C1)C=C | C8H7Br
reactant | 3-cyanopyridine | 2.7 mmol, 551 mg | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | hydrogen peroxide | 54.6 mmol, 6.2 mL | OO | H2O2
reactant | Sodium sulfite | 1M, 10 mL | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | Methyltrioxorhenium (VII) | 0.137 mmol, 34 mg | C[Re](=O)(=O)=O
product | 2-(3-Bromo-phenyl)-oxirane | BrC=1C=C(C=CC1)C1OC1 | C8H7BrO
